Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
seasonal allergy
 
Attending: ___
 
Chief Complaint:
prostate cancer
 
Major Surgical or Invasive Procedure:
Robot-assisted laparoscopic radical prostatectomy, bilateral 
pelvic lymph node dissection

 
History of Present Illness:
___ male with intermediate risk, large volume, prostate cancer.
 
Past Medical History:
PAST MEDICAL HISTORY:  Hypercholesterolemia and prediabetes.

PAST SURGICAL HISTORY:  None.

ALLERGIES:  No known drug allergies
 
Social History:
___
Family History:
 Negative for history of cancers.

 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 08:06AM BLOOD WBC-10.4* RBC-4.01* Hgb-12.7* Hct-36.9* 
MCV-92 MCH-31.7 MCHC-34.4 RDW-12.1 RDWSD-40.8 Plt ___
___ 08:06AM BLOOD Glucose-120* UreaN-23* Creat-1.4* Na-140 
K-4.6 Cl-104 HCO3-23 AnGap-13
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic prostatectomy. No concerning 
intra-operative events occurred; please see dictated operative 
note for full details.  The patient received ___ 
antibiotic prophylaxis.  At the end of the procedure the patient 
was extubated and transported to the PACU for further recovery 
before being transferred to the floor.  He was transferred from 
the PACU in stable condition. On POD0, pain was well controlled 
on PCA, hydrated with intravenous fluids for urine output 
>30cc/hour, provided with pneumoboots and incentive spirometry 
for prophylaxis, and he ambulated once. On POD1, the patient was 
restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
from PCA to oral analgesics, diet was advanced to a clears/toast 
and crackers diet for breakfast and lunch.  Diet was advanced to 
regular after lunch and with further ambulation, the JP drain 
was removed.  Foley catheter care and leg bag teaching was 
provided by nursing. The remainder of the hospital course was 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, and with pain control on 
oral analgesics. On exam, incision was clean, dry, and intact, 
with no evidence of hematoma collection or infection. The 
patient was given explicit instructions to follow-up in one week 
for post-operative evaluation and trial of voiding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Doses 
Take at 7AM and 7PM on date of void trial, foley removal 
RX *ciprofloxacin HCl 500 mg ONE TAB by mouth twice a day Disp 
#*2 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE TAB by mouth Q8HRS Disp #*30 Tablet 
Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE TAB by mouth Q4HRS Disp #*5 Tablet 
Refills:*0 
7.  Atorvastatin 20 mg PO QPM  
8.  Lisinopril 2.5 mg PO DAILY  
9.PAIN PILL LOG
keep track of pain pills and narcotics used on the provided Pain 
Pill Log (orange sheet) over the week and return the log sheet 
at your follow up appointment. 

Remember to also bring a pad/diaper, and the narcotic 
prescription bottle with you to follow up.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PROSTATE CANCER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
***please keep track of pain pills and narcotics used on the 
provided Pain Pill Log (orange sheet) over the week and return 
the log sheet at your follow up appointment. Remember to also 
bring a pad/diaper, and the narcotic prescription bottle with 
you to follow up..

-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen.  Add the 
prescribed narcotic (examples: Oxycodone, Dilaudid, 
Hydromorphone) for break through pain that is >4 on the pain 
scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 3- 4 grams (from 
ALL sources) PER DAY.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up. Generally about 
FOUR weeks. Light household chores are generally “ok”.  Do not 
vacuum. 

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener ___ a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 
 
Followup Instructions:
___